US06303742B1
(1) Synthesis of (4′-nitrophenyl)-4-nitrocinnamate
193.2 g (1 mole) of 4-nitrocinnamic acid and 650 g of ethyl acetate were placed in a reaction vessel. While 200 g of thionyl chloride with some drops of DMF was dropped into the reaction mixtures, the reaction mixtures were refluxed with stirring until the generation of hydrogen chloride gas stopped. The reacted solution was concentrated until a solid could be precipitated and was poured into hexane and then the precipitated solid was separated by filtration and dried. 210 g of 4-nitrocinnamoyl chloride was yielded. 64.5 g (0.3 mole) of 4-nitrocinnamoyl chloride and 300 g of acetone were placed in a reaction vessel. The reaction mixtures were heated at 50° C. with stirring under a nitrogen current. 41.73 g (0.3 mole) of 4-nitrophenol, 60 g of pyridine, and 300 g of acetone were added dropwise to the above reaction vessel using a dropping funnel. After the completion of the addition, the reaction mixtures were refluxed with stirring under a nitrogen current for 2 hours. After the reaction, a precipitate was separated by filtration, and the filtrated solid was washed by water and dried. 90 g of light yellow colored needle-like crystals ((4-nitrophenyl)-4-cinnamate)was yielded.

reactant | 4-nitrocinnamoyl chloride | 0.3 mole, 64.5 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)Cl)C=C1 | C9H6ClNO3
reactant | 4-nitrophenol | 0.3 mole, 41.73 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | pyridine | 60 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 300 g | CC(=O)C | C3H6O
solvent | acetone | 300 g | CC(=O)C | C3H6O
product | (4′-nitrophenyl)-4-nitrocinnamate | 90 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H10N2O6
